US07935709B2
Step E: 1-Benzyl-6-chloroquinazolin-2(1H)-one
To a stirring solution of 1-benzyl-6-chloro-3,4-dihydroquinazolin-2(1H)-one (0.15 g, 0.55 mmol) in DCM (5 mL) was added DDQ (0.13 g, 0.55 mmol) at 0° C. upon which the solution turned black. The mixture was stirred for 4 h at 0° C. and quenched with 1N NaOH(aq). The mixture was passed through a short path of Celite. The separated aqueous layer was extracted with DCM (2×15 mL) and the combined organic layers were washed with brine, dried over Na2SO4, and concentrated to give a crude residue, which was purified using flash column chromatography (100% DCM to 4% MeOH in DCM gradient). The product fractions were concentrated, and washed with ether-hexanes and iPrOH successively to obtain the title compound 1-Benzyl-6-chloroquinazolin-2(1H)-one as an off-white solid. MS m/e 271 (M+H)+.

reactant | 1-benzyl-6-chloro-3,4-dihydroquinazolin-2(1H)-one | 0.55 mmol, 0.15 g | C(C1=CC=CC=C1)N1C(NCC2=CC(=CC=C12)Cl)=O | C15H13ClN2O
reactant | DDQ | 0.55 mmol, 0.13 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-6-chloroquinazolin-2(1H)-one | C(C1=CC=CC=C1)N1C(N=CC2=CC(=CC=C12)Cl)=O | C15H11ClN2O
